US04622403
4-Carboxy-2-(5-indanylthio)-phenylacetic acid
To 50% aqueous potassium hydroxide solution (500 g) under argon was added 5-mercaptoindan (30.0 g, 0.2 mole) and copper powder (16.3 g). Then 4-carboxy-2-iodophenylacetic acid (38.25 g, 0.125 mole) was added with mechanical stirring and the reaction mixture was stirred under reflux (oil-bath 140°-145° C.) for 3 hours. The mixture was diluted with ice-water (800 ml), filtered, and the filtrate was treated with charcoal and refiltered. Acidification of the alkaline solution precipitated a solid which was collected, washed well with water and drained thoroughly on the filter. The solid was stirred with hexane (200 ml) to remove mercaptoindane and was refiltered to yield 33.55 g.

reactant | potassium hydroxide | 500 g | [OH-].[K+]
reactant | 5-mercaptoindan | 0.2 mole, 30.0 g | SC=1C=C2CCCC2=CC1 | C9H10S
reactant | 4-carboxy-2-iodophenylacetic acid | 0.125 mole, 38.25 g | C(=O)(O)C1=CC(=C(C=C1)CC(=O)O)I | C9H7IO4
catalyst | copper | 16.3 g | [Cu] | Cu
product | 4-Carboxy-2-(5-indanylthio)-phenylacetic acid | C(=O)(O)C1=CC(=C(C=C1)CC(=O)O)SC=1C=C2CCCC2=CC1 | C18H16O4S
